US08476302B2
A two-phase mixture of ethyl acetate (30 mL) and water (35 mL) containing 7-phenylheptanal (5.2 g) and KCN (7.1 g) was stirred vigorously at room temperature for 24 h. The layers were separated and the aqueous phase was washed with water, dried (Na2SO4) and concentrated to yield 2-hydroxy-8-phenyloctanenitrile as an oil.

reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | 7-phenylheptanal | 5.2 g | C1(=CC=CC=C1)CCCCCCC=O | C13H18O
reactant | KCN | 7.1 g | [C-]#N.[K+]
solvent | water | 35 mL | O | H2O
product | 2-hydroxy-8-phenyloctanenitrile | OC(C#N)CCCCCCC1=CC=CC=C1 | C14H19NO
